US06420359B1
f) 8-Bromo-5,11-dihydro-11-ethyl-2-fluoro-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
To a solution of the 8-bromo-5,11-dihydro-11-ethyl-2-fluoro-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (44 g, 130.5 mmol) in DMF (520 mL) was added NaH (4.28 g, 178 mmol), and the mixture was heated to 50° C. for 30 min. The reaction mixture was cooled to room temperature and treated with MeI (24.4 mL, 522 mmol). After 1.5 h, the reaction mixture was poured over ice water. The solid was filtered, washed with water and then hexane, dried under reduced pressure to give the title compound (43.2 g, 94% yield) as dark grey solid.

reactant | 8-bromo-5,11-dihydro-11-ethyl-2-fluoro-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 130.5 mmol, 44 g | BrC1=CC2=C(N(C3=C(NC2=O)C=CC(=N3)F)CC)N=C1 | C13H10BrFN4O
reactant | NaH | 178 mmol, 4.28 g | [H-].[Na+]
reactant | MeI | 522 mmol, 24.4 mL | CI | CH3I
solvent | DMF | 520 mL | CN(C)C=O | C3H7NO
product | 8-Bromo-5,11-dihydro-11-ethyl-2-fluoro-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 43.2 g, 94% yield | BrC1=CC2=C(N(C3=C(N(C2=O)C)C=CC(=N3)F)CC)N=C1 | C14H12BrFN4O
